US06727256B1
N[4-[(3-fluorobenzyl)oxy]phenyl)6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine
Prepared according to Procedure D from 5-(4-{4-(3-fluorobenzyloxy)anilino}-6-quinazolinyl)-furan-2-carbaldehyde (0.6 equiv) and 2-methanesulphonyl-ethylamine (1 equiv). 1H NMR400 MHz (DMSO-d6) 9.40 (s,1H); 8.67 (s,1H); 8.30 (d,1H); 7.86 (d,1H); 7.75 (d,2H); 7.43 (m,1H); 7.30-7.21 (m,3H); 7.15 (m,1H); 7.07 (d,2H); 6.80 (d,1H); 5.15 (s,2H); 4.40 (s,2H); 3.65 (m,2H); 3.40 (m,2H); 3.11 (s,3H); MS m/z 547 (M+1).

reactant | 5-(4-{4-(3-fluorobenzyloxy)anilino}-6-quinazolinyl)-furan-2-carbaldehyde | 0.6 equiv | FC=1C=C(COC2=CC=C(NC3=NC=NC4=CC=C(C=C34)C3=CC=C(O3)C=O)C=C2)C=CC1 | C26H18FN3O3
reactant | 2-methanesulphonyl-ethylamine | 1 equiv | CS(=O)(=O)CCN | C3H9NO2S
product | N[4-[(3-fluorobenzyl)oxy]phenyl)6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine | FC=1C=C(COC2=CC=C(C=C2)NC2=NC=NC3=CC=C(C=C23)C=2OC(=CC2)CNCCS(=O)(=O)C)C=CC1 | C29H27FN4O4S
